US04814343
alpha-(2,2-Dimethyl-4H-1,3-benzodioxin-6-yl)-1-triphenylmethyl-1H-imidazole-4-methanol
Starting from 6-bromo-2,2-dimethyl-4H-1,3-benzodioxin and 1-triphenylmethyl-1H-imidazole-4-carboxaldehyde. The temperature of the reaction mixture does not exceed 40° C. Yield: 54.5% of theory; M.P.: 155°-162° C. (recrystallized from acetonitrile).

reactant | 6-bromo-2,2-dimethyl-4H-1,3-benzodioxin | BrC1=CC2=C(OC(OC2)(C)C)C=C1 | C10H11BrO2
reactant | 1-triphenylmethyl-1H-imidazole-4-carboxaldehyde | C1(=CC=CC=C1)C(N1C=NC(=C1)C=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H18N2O
product | alpha-(2,2-Dimethyl-4H-1,3-benzodioxin-6-yl)-1-triphenylmethyl-1H-imidazole-4-methanol | Yield: 54.5% | CC1(OCC2=C(O1)C=CC(=C2)C(O)C=2N=CN(C2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C | C33H30N2O3
